US07132434B2
b) N-[(3S)-1-hydroxy-2,5-dioxopyrrolidinyl][1,1′-biphenyl]-4-sulfonamide
N-[1-(benzyloxy)-2,5-dioxo-3-(R)-pyrrolidinyl][1,1′-biphenyl]4-sulfonamide was hydrogenated over 10% Pd on charcoal in ethanol+10% AcOH under normal atmospteric pressure in the standard hydrogenation apparatus and the reaction progress was monitored by TLC. Then,the catalysator was filtered,washed with ethanol and the title compound was purified by silica gel chromatography (EtOAc+10% MeOH+1% AcOH)

reactant | N-[1-(benzyloxy)-2,5-dioxo-3-(R)-pyrrolidinyl][1,1′-biphenyl]4-sulfonamide | C(C1=CC=CC=C1)ON1C([C@@H](CC1=O)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C23H20N2O5S
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd on charcoal | [Pd] | Pd
product | N-[(3S)-1-hydroxy-2,5-dioxopyrrolidinyl][1,1′-biphenyl]-4-sulfonamide | ON1C([C@H](CC1=O)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C16H14N2O5S
